US07893099B2
(1S,3S) and (1R,3R)-3-[2-chloro-4-(3,3-difluoro-pyrrolidin-1-yl)-benzenesulfonyl]-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was synthesized in analogy to Example 80, from rac-(1S,35)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide and 3,3-difluoro-pyrrolidine to afford the desired product as a light yellow oil. MS (EI): 458.2 (M+H)+.

reactant | rac-(1S,35)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)C1CC(CC1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl | C16H16ClFN2O3S
reactant | 3,3-difluoro-pyrrolidine | FC1(CNCC1)F | C4H7F2N
product | (1R,3R)-3-[2-chloro-4-(3,3-difluoro-pyrrolidin-1-yl)-benzenesulfonyl]-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1C[C@@H](CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CC(CC1)(F)F)Cl | C20H22ClF2N3O3S
